US20010027196A1
2-Amino-4-pyridin-2-yl-6-(pyridin-2-yl -methoxy) -pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile, 2-(hydroxymethyl)pyridine and DBU in DME. EI-MS m/e (%): 304 (M+, 100), 275 (33), 197 (50), 92 (30), 65 (34).

reactant | 2-amino-4-methanesulfinyl-6-pyridin-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C1=NC=CC=C1 | C11H9N5OS
reactant | 2-(hydroxymethyl)pyridine | OCC1=NC=CC=C1 | C6H7NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-pyridin-2-yl-6-(pyridin-2-yl -methoxy) -pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=NC=CC=C1)C#N)OCC1=NC=CC=C1 | C16H12N6O
